US07354932B2
Compound 167: Preparation of {2-[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-ethyl}-urea (Hydrobromide Salt)
A solution of N-(1H-benzimidazol-2-ylmethyl)-N-(5,6,7,8-tetrahydroquinolin-8-yl)-ethane-1,2-diamine (0.10 g, 0.31 mmol) in isopropanol (2 mL) was treated with trimethylsilylisocyanate (60 μL, 0.44 mmol) at room temperature. The reaction was stirred 20 hours and concentrated under reduced pressure. This afforded, after column chromatography with silica gel (2:0.5:97.5 MeOH:NH4OH:CH2Cl2), {2-[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-ethyl}-urea (67 mg, 59%). 1H NMR (CDCl3) δ 1.68 (m, 1H), 1.86 (m, 1H), 2.02 (br, 1H), 2.23 (br, 1H), 2.65 (m, 1H), 2.82 (m, 3H), 3.17 (m, 2H), 4.00 (m, 1H), 4.07 (d, 1H, J=15.0 Hz), 4.18 (d, 1H, J=15.0 Hz), 4.43 (br, 2H, NH2), 6.00 (br, 1H, NH), 7.18 (m, 3H), 7.46 (d, 1H, J=7.0 Hz), 7.45-7.70 (br, 2H), 8.55 (d, 1H, J=4.0 Hz).

reactant | N-(1H-benzimidazol-2-ylmethyl)-N-(5,6,7,8-tetrahydroquinolin-8-yl)-ethane-1,2-diamine | 0.31 mmol, 0.10 g | N1C(=NC2=C1C=CC=C2)CN(CCN)C2CCCC=1C=CC=NC21 | C19H23N5
reactant | trimethylsilylisocyanate | 0.44 mmol, 60 μL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | {2-[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-ethyl}-urea | N1C(=NC2=C1C=CC=C2)CN(CCNC(=O)N)C2CCCC=1C=CC=NC21 | C20H24N6O
